* UCC27511A SPICE Model Library
* Single-Channel High-Speed Low-Side Gate Driver
* 4A Peak Source / 8A Peak Sink - Asymmetrical Drive
* Split Output (OUTH/OUTL) Configuration
*
* Model Version: 2.2
* Date: December 9, 2025

.SUBCKT UCC27511A VDD GND INP INN OUTH OUTL

*----------------------------------------------------------------------
* Supply Current
*----------------------------------------------------------------------
IQ VDD GND 180U

*----------------------------------------------------------------------
* Input Stage
*----------------------------------------------------------------------
RIN_P INP GND 200K
CIN_P INP GND 5P
RIN_N INN GND 200K
CIN_N INN GND 5P

*----------------------------------------------------------------------
* Logic
*----------------------------------------------------------------------
ELOGIC logic 0 VALUE={V(VDD)>4 ? (V(INP)>1.7 ? (V(INN)<1.7 ? 1 : 0) : 0) : 0}

*----------------------------------------------------------------------
* Delay
*----------------------------------------------------------------------
RDLY logic logic_d 1K
CDLY logic_d 0 13P
EBUF out_state 0 VALUE={V(logic_d) > 0.5 ? 1 : 0}

*----------------------------------------------------------------------
* Internal Totem-Pole Output
*----------------------------------------------------------------------
* Common internal node that switches between VDD and GND
EOUT_INTERNAL out_int 0 VALUE={V(out_state) > 0.5 ? V(VDD) : 0}

*----------------------------------------------------------------------
* Split Outputs
*----------------------------------------------------------------------
* OUTH and OUTL both connect to the same internal node
* but with different series resistances
*
* OUTH: Higher resistance (6Ω) - optimized for sourcing (4A)
* OUTL: Lower resistance (0.5Ω) - optimized for sinking (8A)
*
* This allows independent control of turn-on/turn-off speed
* via external gate resistors

ROUTH out_int OUTH 6
COUTH OUTH 0 10P

ROUTL out_int OUTL 0.5
COUTL OUTL 0 10P

.ENDS UCC27511A
